US04045209
A mixture of 67 g of sulfuryl chloride and 100 ml of methylene chloride was slowly added at -40° C. to 68 g of diethyl disulfide in 600 ml of methylene chloride and after the temperature was slowly raised to -5° C., the mixture was stirred at -5° C. for 5 minutes. The mixture was then cooled to -40° C. and a solution of 56 g of N-methyl-N'-(3-chloro-4-methoxyphenyl)-urea in 800 ml of pyridine was added thereto. The mixture was stirred at -20° C. for 2 hours and was then added to a water-ice mixture. The pH of the mixture was adjusted to 5 by addition of an aqueous concentrated solution of hydrochloric acid and was extracted with methylene chloride. The combined organic extracts were washed with water until the wash water was neutral, then dried and distilled to dryness under reduced pressure. The residue was chromatographed over silica gel and eluted with a 7-3 benzene-ethyl acetate mixture. The product was crystallized from isopropyl ether to obtain 23.5 g of N-methyl-N-ethylthio-N'-(3-chloro-4-methoxyphenyl)-urea melting at 60° C.

reactant | sulfuryl chloride | 67 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | diethyl disulfide | C(C)SSCC | C4H10S2
reactant | N-methyl-N'-(3-chloro-4-methoxyphenyl)-urea | 56 g | CNC(=O)NC1=CC(=C(C=C1)OC)Cl | C9H11ClN2O2
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 800 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-N-ethylthio-N'-(3-chloro-4-methoxyphenyl)-urea | 23.5 g | CN(C(=O)NC1=CC(=C(C=C1)OC)Cl)SCC | C11H15ClN2O2S
